US09422240B2
To a solution of tert-butyl cyanoacetate (10.0 g) in toluene (100 mL), sodium hydride (60% dispersion in mineral oil, 2.83 g) was added under cooling with ice. After being stirred at 80° C. for an hour, the mixture was cooled to 50° C. and methyl bromoacetate (6.51 mL) was added slowly. After adding tetrahydrofuran (15 mL), the mixture was stirred at 80° C. for two hours. The reaction mixture was cooled with ice and then sodium hydride (60% dispersion in mineral oil, 2.83 g) was added. After being stirred at 80° C. for an hour, the mixture was cooled to 50° C. and then methyl bromoacetate (6.51 mL) was added slowly. Subsequently, tetrahydrofuran (15 mL) was added and the mixture was stirred at 80° C. for two hours. After the reaction mixture to room temperature, a saturated aqueous solution of ammonium chloride and water were added and extraction was conducted with ethyl acetate. The combined organic layers were washed with water, a saturated aqueous solution of sodium hydrogen carbonate, and saturated brine successively and then dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-40:60) to give 2-tert-butyl 1,3-dimethyl 2-cyanopropane-1,2,3-tricarboxylate as a pale yellow oil (17.8 g).

reactant | tert-butyl cyanoacetate | 10.0 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | sodium hydride | 2.83 g | [H-].[Na+]
reactant | methyl bromoacetate | 6.51 mL | BrCC(=O)OC | C3H5BrO2
reactant | sodium hydride | 2.83 g | [H-].[Na+]
reactant | methyl bromoacetate | 6.51 mL | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-tert-butyl 1,3-dimethyl 2-cyanopropane-1,2,3-tricarboxylate | 17.8 g | C(#N)C(CC(=O)OC)(CC(=O)OC)C(=O)OC(C)(C)C | C13H19NO6
